US06750232B2
(Z)-1-(2-Furyl)-3-isopropoxy-3-(methylsulfanyl)-2-propen-1-one
A mixture of isopropyl 3-(2-furyl)-3-oxopropanethioate (3.7 g, 17.5 mmol), potassium carbonate (7.3 g, 52.4 mmol) and acetone (15 mL) was heated under reflux for 1 hour. After cooling the mixture to 0° C., methyl iodide (2.17 mL, 34.9 mmol) was added thereto, followed by stirring at room temperature for 2 hours. After diluting the reaction solution with ethyl acetate, the insoluble matters were filtered off. The filtrate was concentrated, and then the residue was purified by silica gel column chromatography (elution solvent; ethyl acetate/hexane=1:1), to give the title compound (3.2 g, 81%).

reactant | isopropyl 3-(2-furyl)-3-oxopropanethioate | 17.5 mmol, 3.7 g | O1C(=CC=C1)C(CC(OC(C)C)=S)=O | C10H12O3S
reactant | potassium carbonate | 52.4 mmol, 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 15 mL | CC(=O)C | C3H6O
reactant | methyl iodide | 34.9 mmol, 2.17 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-1-(2-Furyl)-3-isopropoxy-3-(methylsulfanyl)-2-propen-1-one | 3.2 g, 81% | O1C(=CC=C1)C(\C=C(/SC)\OC(C)C)=O | C11H14O3S
